US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-2-phenyl-ethyl)-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and (S)-2-amino-3-phenyl-propionamide hydrochloride (1:1) (CAN 5241-58-7, 118.84 mg, 0.64 mmol) as starting materials, and isolated (60 mg, 37.03%) as colorless sticky solid; LC-MS (UV peak area, ESI) 100%, 381.4 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (S)-2-amino-3-phenyl-propionamide hydrochloride | 0.64 mmol, 118.84 mg | Cl.N[C@H](C(=O)N)CC1=CC=CC=C1
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-carbamoyl-2-phenyl-ethyl)-amide | C(N)(=O)[C@H](CC1=CC=CC=C1)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C21H24N4O3
